US07846929B2
A mixture of N-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-pyrrolidin-3-yl-methanesulfonamide (200 mg), formic acid (2.5 mL) and formaldehyde (37% solution, 0.37 mL) was heated at 60° C. overnight. The mixture was diluted with 2M NaOH then extracted with CH2Cl2. Combined extracts were dried (MgSO4), filtered and concentrated. Purification on silica yielded N-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-(1-methyl-pyrrolidin-3-yl)-methanesulfonamide (38 mg).

reactant | N-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-pyrrolidin-3-yl-methanesulfonamide | 200 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN(S(=O)(=O)C)C2CNCC2)N2CCOCC2 | C16H22ClN5O3S2
reactant | formic acid | 2.5 mL | C(=O)O | CH2O2
reactant | formaldehyde | 0.37 mL | C=O | CH2O
solvent | NaOH | 2M | [OH-].[Na+]
product | N-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-N-(1-methyl-pyrrolidin-3-yl)-methanesulfonamide | 38 mg | ClC=1N=C(C2=C(N1)C=C(S2)CN(S(=O)(=O)C)C2CN(CC2)C)N2CCOCC2 | C17H24ClN5O3S2
